US06136843
2-(1,3-Benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetic acid
Aqueous sodium hydroxide (14.7 ml of 1M) was added to a solution of methyl 2-(1,3-benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetate from (b) (1.97 g, 4.9 mmol) in a 3:1 mixture of methanol and 1,4-dioxane at ambient temperature. The mixture was heated to reflux for 1 hour before recooling and removing the organic solvents in vacuo. The residue was redissolved in water and acidified with drops of concentrated hydrochloric acid. The resultant precipitate was extracted with diethylether, dried (magnesium sulphate) and the solvent removed in vacuo. The residue was crystallised from diisopropylether to give the subtitle compound (1.59 g).

reactant | sodium hydroxide | 1M, 14.7 ml | [OH-].[Na+]
reactant | methyl 2-(1,3-benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetate | O1COC2=C1C=CC(=C2)C(C(=O)OC)C2=CN(C1=CC=C(C=C21)Br)C | C19H16BrNO4
reactant | methanol | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-(1,3-Benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetic acid | 1.59 g | O1COC2=C1C=CC(=C2)C(C(=O)O)C2=CN(C1=CC=C(C=C21)Br)C | C18H14BrNO4
